US06605617B2
2-[5-(Dimethylamino)benzimidazol-2-yl]-N-(2-cyanophenyl)acetamide
The title compound was synthesized as described in Example 9, Method B using ethyl 2-[5-(dimethylamino)benzimidazol-2-yl]acetate and anthranilonitrile. LC/MS m/z 320.2 (MH+), Rf 1.68 minutes.

reactant | ethyl 2-[5-(dimethylamino)benzimidazol-2-yl]acetate | CN(C1=CC2=C(N=C(N2)CC(=O)OCC)C=C1)C | C13H17N3O2
reactant | anthranilonitrile | C(C=1C(N)=CC=CC1)#N | C7H6N2
product | 2-[5-(Dimethylamino)benzimidazol-2-yl]-N-(2-cyanophenyl)acetamide | CN(C1=CC2=C(N=C(N2)CC(=O)NC2=C(C=CC=C2)C#N)C=C1)C | C18H17N5O
